US06288120B1
3-(2-Amino-ethyl)-benzoic acid methyl ester.
A solution of 3-cyanomethyl-benzoic acid methyl ester (1.36 g) in EtOH (25 mL) was saturated with HCl (g) and PtO2 (200 mg) was added. The reaction was hydrogenated on a Parr shaker at 50 psi for 2.5 h. The catalyst was removed via filtration through Celite and the solvent was removed in vacuo. The resulting solid was stirred in Et2O and the mixture was filtered to yield the title compound as a white solid (1.18 g). MS 180 (M+1).

reactant | 3-cyanomethyl-benzoic acid methyl ester | 1.36 g | COC(C1=CC(=CC=C1)CC#N)=O | C10H9NO2
reactant | HCl | Cl | ClH
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | PtO2 | 200 mg | O=[Pt]=O
product | 3-(2-Amino-ethyl)-benzoic acid methyl ester | 1.18 g | COC(C1=CC(=CC=C1)CCN)=O | C10H13NO2
